US07572809B2
Similar procedure as described in example 10 was used, starting from 4-methoxy-phenol and (1-chloro-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [5-methyl-1-(4-methoxy-phenoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 361(MH+).

reactant | 4-methoxy-phenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | (1-chloro-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C=CC=C12)C)NC1=NNC(=C1)C | C14H13ClN4
product | [5-methyl-1-(4-methoxy-phenoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | CC1=C2C=C(N=C(C2=CC=C1)OC1=CC=C(C=C1)OC)NC1=NNC(=C1)C | C21H20N4O2
